US03966947
p-Mercaptophenyl isocyanate (0.9g., 0.00595 mole) was added to a solution of 3-pyridyl carbinol (0.65g., 0.00595 mole) in 50 ml. of benzene and the reaction mixture was allowed to stand over the weekend. It was then heated to reflux to assure completion of the reaction and then cooled to give a white solid. This was isolated as 1.2g. and was a 78% yield of 3-pyridylmethyl N-(4'-mercaptophenyl)carbamate.

reactant | p-Mercaptophenyl isocyanate | 0.00595 mole, 0.9g | SC1=CC=C(C=C1)N=C=O | C7H5NOS
reactant | 3-pyridyl carbinol | 0.00595 mole, 0.65g | N1=CC(=CC=C1)CO | C6H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-(4'-mercaptophenyl)carbamate | 78% yield | SC1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C13H12N2O2S
